* source PROJECT_SIPM
X_U1         N03746 N00350 N00737 N00750 N00455 LMH6624
V_V1         N01128 0  
+PULSE 0 30mVdc 0 1n 2n 1n 25n
R_R2         N01128 N00350  50 TC=0,0 
R_R3         N00350 N00455  470 TC=0,0 
C_C1         N00350 N00455  1p  TC=0,0 
C_C2         N00455 N07860  100n  TC=0,0 
R_R4         0 N01460  1k TC=0,0 
V_V2         N00737 0 5Vdc
V_V3         N00750 0 -5Vdc
X_U2         N01460 N01527 N01867 N02227 N01557 LMH6624
R_R6         N07860 N01460  47.5 TC=0,0 
R_R7         N01527 N01557  1k TC=0,0 
R_R8         0 N01527  50 TC=0,0 
V_V4         N01867 0 5Vdc
V_V5         N02227 0 -5Vdc
R_R9         N10938 N11428  47.5 TC=0,0 
R_R10         N03746 0  47.5 TC=0,0 
C_C4         N10938 N01557  100n  TC=0,0 
R_R11         0 N11428  50 TC=0,0 
C_C5         N03746 0  100n  TC=0,0 
